US07091214B2
7-Bromo-3-nitroquinolin-4-ol (42 g, 156 millimoles (mmol)) was suspended in POCl3 (130 mL) and brought to 102° C. under an atmosphere of N2. After 45 min, all of the solids had dissolved, so the reaction was cooled to room temperature (RT). The resulting solids were collected by filtration, washed with H2O, and then partitioned with CH2Cl2 (3 L) and 2M Na2CO3 (500 mL). The organic layer was separated, washed with H2O (1×), dried over Na2SO4, filtered, and concentrated to afford 33.7 g of 7-bromo-4-chloro-3-nitroquinoline as a beige solid.

reactant | 7-Bromo-3-nitroquinolin-4-ol | 156 millimoles, 42 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C9H5BrN2O3
reactant | POCl3 | 130 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-bromo-4-chloro-3-nitroquinoline | 33.7 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
